US06340759B1
(290-5) 4-Chloro-6-(4-methoxyphenyl)thieno[3,2-c]pyridin
6-(4-Methoxyphenyl)-5H-thieno[3,2-c]pyridin-4-one (9.1 g) was added to phosphorus oxychloride (90 g), and the mixture was heated at 120° C. for 3 hr. The reaction solution was evaporated, and to the resulting residue were added ethyl acetate and water. The organic layer was washed with water, an aqueous solution of saturated sodium bicarbonate and brine, and dried over magnesium sulfate. The solvent was evaporate, and the resulting residue was purified by silica gel column chromatography (ethyl acetate/hexane system), to give the title compound as a white powder (6.6 g, yield; 73%).

reactant | 6-(4-Methoxyphenyl)-5H-thieno[3,2-c]pyridin-4-one | 9.1 g | COC1=CC=C(C=C1)C1=CC2=C(C(N1)=O)C=CS2 | C14H11NO2S
reactant | phosphorus oxychloride | 90 g | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6-(4-methoxyphenyl)thieno[3,2-c]pyridin | 6.6 g, yield; 73% | ClC1=NC(=CC2=C1C=CS2)C2=CC=C(C=C2)OC | C14H10ClNOS
